US04504415
N-Benzyloxycarbonyl-L-isoleucyl-O-t-butyl-L-threonyl-O-t-butyl-L-threonyl-Nε -t-butyloxycarbonyl-L-lysine, V
Z-Ile-Thr(tBu)-Thr(tBu)-Lys(Boc)-OPh (0.884 g, 1.0 mmol) was dissolved in 25 ml acetone and 4 ml H2O added followed by the addition of 3% H2O2 (1.16 ml, 1.0 mmol) and the solution stirred magnetically. The pH was adjusted to, and maintained at, 10.5 by the addition of 0.1N NaOH(a) after stirring at pH 10.5 for 1.5 h, 0.1N HCl was added until the reaction mixture reached pH 3. The white solid which formed was collected by filtration,(b) washed with H2O (~60 ml) and dried in vacuo to yield 0.781 g (96.6%); mp 174°-176° dec;(c)Rf 0.63 (ChCl3 :CH3OH:AcOH; 80-5-1); [α]D25 +13.66 (c 1, CH3OH). Anal: calc. for C41H69N5O11 (808.0): C, 60.94; H, 8.61; N, 8.67. Found: C, 60.83; H, 8.70; N, 8.93.

reactant | Z-Ile-Thr(tBu)-Thr(tBu)-Lys(Boc)-OPh | 1.0 mmol, 0.884 g | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C47H73N5O11
reactant | H2O | 4 ml | O | H2O
reactant | H2O2 | 1.0 mmol, 1.16 ml | OO | H2O2
reactant | HCl | 0.1N | Cl | ClH
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | CH3OH | CO | CH4O
solvent | AcOH | CC(=O)O | C2H4O2
product | N-Benzyloxycarbonyl-L-isoleucyl-O-t-butyl-L-threonyl-O-t-butyl-L-threonyl-Nε -t-butyloxycarbonyl-L-lysine | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C41H69N5O11
